US04067973
2-((2-Chlorophenyl)azo)imidazole (20.6 grams; 0.1 mole) was refluxed with 50 cc of methyl iodide in 100 milliters of glyme for 2.0 hours to give 22.0 grams (60.8 percent of theoretical) of 2-((2-chlorophenyl)azo)-1,3-dimethylimidazole iodide melting at 212°-215° C.

reactant | 2-((2-Chlorophenyl)azo)imidazole | 0.1 mole, 20.6 grams | ClC1=C(C=CC=C1)N=NC=1NC=CN1 | C9H7ClN4
reactant | methyl iodide | 50 cc | CI | CH3I
reactant | glyme | C(OC)COC | C4H10O2
product | 2-((2-chlorophenyl)azo)-1,3-dimethylimidazole iodide | 22.0 grams, 60.8 percent | [I-].ClC1=C(C=CC=C1)N=NC1N(C=CN1C)C | InChI=1S/C11H13ClN4.HI/c1-15-7-8-16(2)11(15)14-13-10-6-4-3-5-9(10)12;/h3-8,11H,1-2H3;1H/p-1
